US08685977B2
4-(2-methoxyphenylthio)-N-(methylsulfonyl)benzamide
4-(2-methoxyphenylthio)benzoic acid (126 mg, 0.48 mmol), 4-dimethylaminopyridine (12.2 mg, 0.10 mmol) and 1-ethyl-3-(dimethylaminopropyl)carbodiimide (195 mg, 0.97 mmol) were dissolved in anhydrous N,N-dimethylformamide (4 mL) and stirred for 60 minutes. To this solution was added methanesulphonamide (70 mg, 0.72 mmol) and the reaction mixture was stirred at room temperature for 18 hours. The reaction was quenched by the addition of water (10 mL) and the mixture extracted with ethyl acetate (3×10 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give 50 mg of a crude oil which was purified by preparative HPLC title compound.

reactant | 4-(2-methoxyphenylthio)benzoic acid | 0.48 mmol, 126 mg | COC1=C(C=CC=C1)SC1=CC=C(C(=O)O)C=C1 | C14H12O3S
reactant | 1-ethyl-3-(dimethylaminopropyl)carbodiimide | 0.97 mmol, 195 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | methanesulphonamide | 0.72 mmol, 70 mg | CS(=O)(=O)N | CH5NO2S
catalyst | 4-dimethylaminopyridine | 0.10 mmol, 12.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-(2-methoxyphenylthio)-N-(methylsulfonyl)benzamide | 50 mg | COC1=C(C=CC=C1)SC1=CC=C(C(=O)NS(=O)(=O)C)C=C1 | C15H15NO4S2
